US09145380B2
a) 2-(2,3-Dichloro-benzenesulfonylamino)-5-methoxy-benzenesulfonamide
To a solution of 2-amino-5-methoxy-benzenesulfonamide (2.73 g, 13.43 mmol) in pyridine (25 mL), 2,3-dichlorobenzenesulfonyl chloride (3.68 g, 15.0 mmol) was added slowly at 0° C. The reaction mixture was stirred at RT overnight and then concentrated under reduced pressure. The residue was then partitioned between ethyl acetate and 1N HCl. The organic layer was separated, dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash column chromatography using ethyl acetate/hexane (1:1) to afford the title compound (4.8 g, 87%).

reactant | 2-amino-5-methoxy-benzenesulfonamide | 13.43 mmol, 2.73 g | NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H10N2O3S
reactant | 2,3-dichlorobenzenesulfonyl chloride | 15.0 mmol, 3.68 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2,3-Dichloro-benzenesulfonylamino)-5-methoxy-benzenesulfonamide | 4.8 g, 87% | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C=C1)OC)S(=O)(=O)N | C13H12Cl2N2O5S2
